US04054582
A solution of 504 mg. of 1-methoxy-4-(1-hydroxy-1-methylethyl)-1,4-cyclohexadiene and 708 mg. of 5-(1,1-dimethylheptyl)resorcinol in 25 ml. of benzene was stirred at 24° C. while 5 ml. of boron trifluoride diethyl etherate was added in one portion. The reaction mixture was stirred at 24° C. for five hours. The reaction mixture then was added to 20 ml. of 6N hydrochloric acid solution. After allowing the benzene solvent to evaporated from the aqueous acid solution, the solution was extracted several times with diethyl ether. The ethereal extracts were combined, washed with water and with aqueous sodium bicarbonate solution, and dried. Evaporation of the solvent under reduced pressure provided an oil, which was crystallized from hexane to afford dl-cis-1-hydroxy-3-(1,1-dimethylheptyl)-6,6-dimethyl-6,6a,7,8,10,10a-hexahydro-9H-dibenzo[b,d]pyran-9-one.

reactant | 1-methoxy-4-(1-hydroxy-1-methylethyl)-1,4-cyclohexadiene | COC1=CCC(=CC1)C(C)(C)O | C10H16O2
reactant | 5-(1,1-dimethylheptyl)resorcinol | CC(CCCCCC)(C)C=1C=C(C=C(O)C1)O | C15H24O2
reactant | boron trifluoride diethyl etherate | B(F)(F)F.CCOCC
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | cis-1-hydroxy-3-(1,1-dimethylheptyl)-6,6-dimethyl-6,6a,7,8,10,10a-hexahydro-9H-dibenzo[b,d]pyran-9-one | OC1=CC(=CC=2OC([C@H]3[C@@H](C21)CC(CC3)=O)(C)C)C(CCCCCC)(C)C | C24H36O3
